US05777070
Preparation of a high molecular weight homopolymer of 9,9-dioctylfluorene
To a stirred mixture of 9,9-dioctyl 2,7-fluorenediboronate (27.42 g, 51.2 mmol), 2,7-dibromo-9,9-dioctylfluorene (27.43 g, 50 mmol) in toluene (450 mL) under nitrogen are added sequentially the phase transfer catalyst, Aliquat® 336 (1.4 g, 3.4 mmol), tetrakis(triphenylphosphine)palladium (38 mg, 0.032 mmol), and 2M aqueous sodium carbonate (80 mL, 160 mmol). The mixture is stirred and heated under gentle reflux for 20 hours when a viscous reaction mixture is observed. One gram of bromobenzene is added and stirring and heating continued for 5 hours. The reaction mixture is cooled to about 50° C., added slowly to a vigorously stirred mixture of 3.5 L of methanol and 200 mL of 1N aqueous HCl. The polymer fibers are collected by filtration, washed successively with methanol (1 L), deionized water (500 mL), and methanol (1 L), and dried in a vacuum oven at 60° C. for 16 hours. The polymer weighed 39 g (100% yield). The inherent viscosity of the polymer is found to be 1.65 dL/g (THF, 25° C., 0.5 g/dL). The polymer is purified further by passing a toluene solution of the polymer through a column of silica gel and re-precipitation from 4 L of methanol. The purified polymer weighs 37 g (95% yield).

reactant | 2,7-dibromo-9,9-dioctylfluorene | 50 mmol, 27.43 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCC)CCCCCCCC | C29H40Br2
reactant | sodium carbonate | 160 mmol, 2M, 80 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromobenzene | One gram | BrC1=CC=CC=C1 | C6H5Br
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Aliquat® 336 | 3.4 mmol, 1.4 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.032 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 3.5 L | CO | CH4O
product | 9,9-dioctylfluorene | 100% yield | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCCCCC | C29H42
